US03968227
i. 2-[(2-Aminoethyl)thiomethyl]thiazole was successively treated with carbon disulphide and methyl iodide according to the general procedure of Example 1(a)(b) to give S-methyl-N-[2-(2-thiazolylmethylthio)ethyl]dithiocarbamate hydriodide.

reactant | 2-[(2-Aminoethyl)thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
reactant | methyl iodide | CI | CH3I
reactant | carbon disulphide | C(=S)=S | CS2
product | S-methyl-N-[2-(2-thiazolylmethylthio)ethyl]dithiocarbamate hydriodide | I.CSC(NCCSCC=1SC=CN1)=S | InChI=1S/C8H12N2S4.HI/c1-12-8(11)10-2-4-13-6-7-9-3-5-14-7;/h3,5H,2,4,6H2,1H3,(H,10,11);1H
